US06660753B2
To a suspension of 60% sodium hydride (0.351 g, 8.77 mmol) in dimethylformamide(7.5 mL), a solution of diethyl 4-hydroxy-2,6-pyridinedicarboxylate (1.4 g, 5.85 mmol) in dimethylformamide (9 mL) was added dropwise under argon at room temperature and the reaction mixture was stirred for 5 minutes. Iodomethane (1.245 g, 8.77 mmol) was added and the reaction was stirred at room temperature for 20 hours. The mixture was poured into water and extracted with dichloromethane. The dichloromethane layer was dried, concentrated to give 1.45 g (97.8%) diethyl 4-methoxy-2,6-pyridinedicarboxylate.

reactant | sodium hydride | 8.77 mmol, 0.351 g | [H-].[Na+]
reactant | diethyl 4-hydroxy-2,6-pyridinedicarboxylate | 5.85 mmol, 1.4 g | OC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C11H13NO5
reactant | Iodomethane | 8.77 mmol, 1.245 g | IC | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 7.5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | diethyl 4-methoxy-2,6-pyridinedicarboxylate | 1.45 g, 97.8% | COC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C12H15NO5
